US04758668
To a solution of 5-fluoro-1-[4-(trifluoromethyl)phenyl]-3-(1-methyl-4-piperidinyl)-1H-indazole (13.2 g, 0.035 moles) in 1,2-dichloroethane (35 ml) at 0° C. was added 1-chloroethylchloroformate (3.9 ml, 0.035 moles). The reaction was stirred for 15 minutes at 0° and then for 4 hours at ambient temperature. The solvent was removed and then methanol (90 ml) was added. The mixture was refluxed for 1 hour and then the methanol was removed which left 17.8 g of a solid. The product was recrystallized twice from isopropyl alcohol to yield 6.3 g (45%) of 5-fluoro-1-[4-(trifluoromethyl)phenyl]-3-(4-piperidinyl-1H-indazole hydrochloride, mp 276°-278°.

reactant | 5-fluoro-1-[4-(trifluoromethyl)phenyl]-3-(1-methyl-4-piperidinyl)-1H-indazole | 0.035 moles, 13.2 g | FC=1C=C2C(=NN(C2=CC1)C1=CC=C(C=C1)C(F)(F)F)C1CCN(CC1)C | C20H19F4N3
reactant | 1-chloroethylchloroformate | 0.035 moles, 3.9 ml | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 35 ml | ClCCCl | C2H4Cl2
product | 4-piperidinyl-1H-indazole hydrochloride | Cl.N1(CCCCC1)C1=C2C=NNC2=CC=C1 | InChI=1S/C12H15N3.ClH/c1-2-7-15(8-3-1)12-6-4-5-11-10(12)9-13-14-11;/h4-6,9H,1-3,7-8H2,(H,13,14);1H
